US08664401B2
Step C 2-methoxy-5-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}pyridine
A solution of the 5-[(4-bromophenoxy)methyl]-2-methoxypyridine (0.50 g, 1.70 mmol), bis(pinacolato)diborane (0.518 g, 2.04 mmol), potassium acetate (0.698 g, 7.12 mmol) and palladium dppf (69.4 mg, 0.085 mmol) in 1,4-dioxane (10 mL) was heated to reflux overnight. After 18 hours the reaction was cooled to room temperature then concentrated. The residue was partitioned between ether and water, an emulsion was removed by filtration through celite eluting with ether. The layers in the filtrate were separated. The organic layer was washed with water (2×) then brine (1×). The organic layer was dried (Na2SO4), filtered and concentrated. The crude material was purified by silica chromatography (hexanes/ethyl acetate 9:1) to give a white solid. Mass/Yield—285 mg/50% LCMS MS ES+ 342.6. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 1.32 (s, 12H) 3.93 (s, 3H) 4.99 (s, 2H) 6.72-6.78 (m, 1H) 6.91-6.98 (m, 2H) 7.61-7.69 (m, 1H) 7.71-7.79 (m, 2H) 8.20 (s, 1H)

reactant | 5-[(4-bromophenoxy)methyl]-2-methoxypyridine | 1.70 mmol, 0.50 g | BrC1=CC=C(OCC=2C=CC(=NC2)OC)C=C1 | C13H12BrNO2
reactant | bis(pinacolato)diborane | 2.04 mmol, 0.518 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 7.12 mmol, 0.698 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | palladium dppf | 0.085 mmol, 69.4 mg | [Pd].C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-methoxy-5-{[4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenoxy]methyl}pyridine | COC1=NC=C(C=C1)COC1=CC=C(C=C1)B1OC(C(O1)(C)C)(C)C | C19H24BNO4
